### PR TITLE
[Merged by Bors] - chore(Algebra/Equiv/TransferInstance): split according to algebraic structures

### PR DESCRIPTION
**Pull request by YaelDillies**
Split `Algebra.Equiv.TransferInstance` into
* `Algebra.Group.TransferInstance`
* `Algebra.GroupWithZero.TransferInstance`
* `Algebra.Ring.TransferInstance`
* `Algebra.Field.TransferInstance`
* `Algebra.Module.TransferInstance`
* `Algebra.Algebra.TransferInstance`

Restore the `Nontrivial (Shrink α)` instance that was accidentally deleted in #26774.

---

- [x] depends on: #26769
- [x] depends on: #26774

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Equiv/TransferInstance.lean [hunk 1]
```diff
@@ -1,372 +1,5 @@
...
-import Mathlib.Algebra.Group.TransferInstance
-import Mathlib.Algebra.Ring.Hom.InjSurj
+import Mathlib.Algebra.Algebra.TransferInstance
+import Mathlib.Algebra.Field.TransferInstance
+import Mathlib.Algebra.Module.TransferInstance
 
-/-!
-# Transfer algebraic structures across `Equiv`s
-
-This continues the pattern set in `Mathlib/Algebra/Group/TransferInstance.lean`.
```
Comment (eric-wieser) [inline Mathlib/Algebra/Equiv/TransferInstance.lean:14]: Perhaps this comment should be repeated in all the split files?

File: Mathlib/Algebra/Equiv/TransferInstance.lean [hunk 2]
```diff
@@ -1,372 +1,5 @@
...
-    letI := e.toAddEquiv.module A
-    IsScalarTower R A α := by
-  letI := e.toAddEquiv.module A
-  constructor
-  intro x y z
-  simp only [Equiv.smul_def, smul_assoc]
-  apply e.symm.map_smul
-
-end
+deprecated_module (since := "2025-07-04")
```
Comment (eric-wieser) [inline Mathlib/Algebra/Equiv/TransferInstance.lean]: I think we decided that these don't belong in PRs, and should be generated by a bot in a later PR instead.

Comment (YaelDillies) [reply Mathlib/Algebra/Equiv/TransferInstance.lean]: Sure, but I thought that in this case there was nothing to be gained by waiting since no single file is getting most of the content of the existing one

File: Mathlib/Algebra/Field/TransferInstance.lean [hunk 3]
```diff
@@ -0,0 +1,60 @@
...
+
+/-!
+# Transfer algebraic structures across `Equiv`s
+
+This continues the pattern set in `Mathlib/Algebra/Group/TransferInstance.lean`.
+
+### Implementation details
+
+When adding new definitions that transfer type-classes across an equivalence, please use
+`abbrev`. See note [reducible non-instances].
```
Comment (eric-wieser) [inline Mathlib/Algebra/Field/TransferInstance.lean]: Let's drop this (throughout), better to just refer to the implementation details in the base file.

File: Mathlib/Algebra/Equiv/TransferInstance.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Equiv/TransferInstance.lean]: Let's leave the bot to do it, since that also ensures an accurate date.

File: Mathlib/Logic/Small/Defs.lean [hunk 4]
```diff
@@ -93,6 +93,9 @@ instance small_ulift (α : Type u) [Small.{v} α] : Small.{v} (ULift.{w} α) :=
 theorem small_type : Small.{max (u + 1) v} (Type u) :=
   small_max.{max (u + 1) v} _
 
+instance {α : Type u} [Small.{v} α] [Nontrivial α] : Nontrivial (Shrink.{v} α) :=
+  (equivShrink α).symm.nontrivial
+
```
Comment (eric-wieser) [inline Mathlib/Logic/Small/Defs.lean:98]: Was this deliberate? It seems unrelated to the rest of the PR.

Comment (YaelDillies) [reply Mathlib/Logic/Small/Defs.lean:98]: Whoops, I was originally merely moving the instance, but I accidentally deleted it in #26774, making the current PR appear as if it were creating it

File: Mathlib/Algebra/Ring/Shrink.lean [hunk 5]
```diff
@@ -3,11 +3,11 @@ Copyright (c) 2021 Kim Morrison. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Kim Morrison
 -/
-import Mathlib.Algebra.Equiv.TransferInstance
 import Mathlib.Algebra.Group.Shrink
+import Mathlib.Algebra.Ring.TransferInstance
 
 /-!
-# Transfer ring structures from `α` to `Shrink α`
+# Transfer ring structures from `α` to `Shrink α`.
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Shrink.lean]: Nit: headings shouldn't have `.`

File: Mathlib/Logic/Small/Defs.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Logic/Small/Defs.lean:98]: Please note that in the PR description before merging (or split out a separate PR).

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks for splitting this earlier!

**Comment by YaelDillies** [comment]
bors merge

**Comment by YaelDillies** [comment]
bors merge
